* source P1
X_M1         N00305 N00175 N00095 PHP125/PLP
V_V1         N00305 0 10Vdc
C_C1         0 N00175  100p  
X_M5         N012302 N00095 N01352 PHP125/PLP
C_C2         0 N00095  100p  
X_M6         N01352 N00095 0 PHN110/PLP
X_M3         N00095 N00175 0 PHN110/PLP
C_C3         0 N01352  100p  
X_M7         N00175 N01352 0 PHN110/PLP
V_V3         N011962 0 10Vdc
V_V2         N012302 0 10Vdc
X_M4         N011962 N01352 N00175 PHP125/PLP
