* source P2
C_C2         0 N13783  100p  
M_M6         N09421 N13783 0 0 Mbreakn           
C_C1         0 N03164  100p  
V_V4         N13783 0  
+PULSE 4 0 20u 50u 50u .1m 10m
M_M15         N13783 N03164 N14091 N14091 Mbreakp           
M_M14         N03164 N09421 N08874 N08874 Mbreakp           
V_V1         N13771 0 5Vdc
M_M7         N03164 N09421 0 0 Mbreakn           
V_V2         N08874 0 5Vdc
C_C0         0 N09421  100p  
M_M8         N13783 N03164 0 0 Mbreakn           
M_M13         N09421 N13783 N13771 N13771 Mbreakp           
V_V3         N14091 0 5Vdc
